US06482829B2
(rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-3-pyridin-4-yl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=563.2 (M+H+), was prepared in accordance with the general method of example 63 from (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and pyridine-4-boronic acid.

reactant | (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=CC=CC=C3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C23H21F6N3O2
reactant | pyridine-4-boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | (rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-3-pyridin-4-yl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=CC=CC=C3)C)C3=CC=NC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C28H24F6N4O2
